data/oMe_Silver.jsonl
{"reaction_id": "NR-061_1-C(C)(C)C_2-CCCC(C)C","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(C(C)(C)C)C(=O)CCCC(=O)O(CCCC(C)C)"],"products_smiles": ["O(C(C)(C)C)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C)(C)C)C(=O)[CH-]CCCC(=O)O(CCCC(C)C)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(C(C)(C)C)C(=O)C1C([O-])(O(CCCC(C)C))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(C(C)(C)C)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
{"reaction_id": "NR-238_1-c2ccccc2_2-Cc2ccccc2_3-C(C)C_4-C(C)C","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccccc2C(=O)O","C(C)CN=C=NC(C)C","Cc2ccccc2O","CN(C)c1ccncc1"],"products_smiles": ["Cc2ccccc2OC(=O)c2ccccc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccccc2C(=O)OC(=[NH+]C(C)C)NC(C)C","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccccc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(OCc2ccccc2)c2ccccc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc2ccccc2OC(=O)c2ccccc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
